US07825128B2
(RS)—N-(ethoxycarbonyl)-S-[4-({4-[(3-hydroxypropyl)amino]-5-(2-thienyl-)pyrimidine-2-yl}amino)phenyl]-S-methylsulfoximide
In the reaction of 3-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propanol (154 mg, 0.57 mmol) with (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide (127 mg, 0.53 mmol) according to procedure 5b, the desired product is obtained in 29% yield (80 mg) after chromatographic purification (silica gel, hexane/ethyl acetate (50%-100% ethyl acetate)) and subsequent purification by HPLC.

reactant | 3-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propanol | 0.57 mmol, 154 mg | ClC1=NC=C(C(=N1)NCCCO)C=1SC=CC1 | C11H12ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide | 0.53 mmol, 127 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
product | (RS)—N-(ethoxycarbonyl)-S-[4-({4-[(3-hydroxypropyl)amino]-5-(2-thienyl-)pyrimidine-2-yl}amino)phenyl]-S-methylsulfoximide | 29% yield | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCCCO)C=1SC=CC1 | C21H25N5O4S2
